US09428503B2
Intermediate B3: 6-Bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxylic acid
Sodium hydroxide (190 ml, 379.70 mmol) was added to ethyl 6-bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxylate (36 g, 94.92 mmol) in a mixture of MeOH (120 mL) and THF (120 mL) and the resulting mixture stirred at 60° C. for 3 h. The solvent was removed under reduced pressure and the mixture adjusted to pH 3 with 2M hydrochloric acid. The precipitate was collected by filtration, washed with water (300 mL) and dried under vacuum to afford the desired material (33.0 g, 99%) as a pale yellow solid, which was used without further purification. Mass Spectrum: m/z (ES+)[M+H]+=351.

reactant | Sodium hydroxide | 379.70 mmol, 190 ml | [OH-].[Na+]
reactant | ethyl 6-bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxylate | 94.92 mmol, 36 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)N[C@@H]1C[C@@H](C1)OC | C17H19BrN2O3
solvent | MeOH | 120 mL | CO | CH4O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxylic acid | 33.0 g, 99% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@@H]1C[C@@H](C1)OC | C15H15BrN2O3
